US07858646B2
Synthesis of 6-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio) isonicotinonitrile
Using the method of Preparation 166 using 6-(3-(hydroxymethyl)phenylthio) isonicotinonitrile (1.35 g, 5.56 mmol) and 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone (1.00 g, 5.56 mmol) affords the title compound (1.80 g, 80%). MS (APCI-neg) m/z (rel intensity): 403 (M−H, 100%).

reactant | 6-(3-(hydroxymethyl)phenylthio) isonicotinonitrile | 5.56 mmol, 1.35 g | OCC=1C=C(C=CC1)SC=1N=CC=C(C#N)C1 | C13H10N2OS
reactant | 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone | 5.56 mmol, 1.00 g | C(C)C=1C(=C(C=CC1O)C(C)=O)O | C10H12O3
product | 6-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio) isonicotinonitrile | 1.80 g, 80% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2N=CC=C(C#N)C2)C=C1)CC)O | C23H20N2O3S
